US07112582B2
Step 2: 5-Amino-1-methyl-3,6-dihydro-1H-pyrazin-2-one
A solution of 5-amino-1-methyl-3,6-dihydro-1H-pyrazin-2-one hydrochloride (662 mg) in methanol (10 mL) was added 10% potassium carbonate aqueous solution at 0□ and then stirred for 40 min at 0□. The mixture was concentrated under reduced pressure. The residue was triturated with chloroform (18 mL) and methanol (2 mL) at room temperature for 30 min. The precipitate was filtered off and dried in vacuo. The compound was obtained as a pale brown powder (515 mg, quantitative).

reactant | 5-amino-1-methyl-3,6-dihydro-1H-pyrazin-2-one hydrochloride | 662 mg | Cl.NC1=NCC(N(C1)C)=O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | 5-Amino-1-methyl-3,6-dihydro-1H-pyrazin-2-one | NC1=NCC(N(C1)C)=O | C5H9N3O
